US09163027B2
2-{[2-(4-chlorophenoxy)ethyl]sulfanyl}-5-methyl-7-(trifluoromethyl)-[1,2,4]triazolo[1,5-a]pyrimidine
A mixture of 1,1,1-trifluoro-2,4-pentanedione (114 mg, 0.739 mmol), 3-{[2-(4-chlorophenoxy)ethyl]sulfanyl}-1H-1,2,4-triazol-5-amine (200 mg, 0.739 mmol), and glacial acetic acid (1.5 mL) was added to a 50 mL RBF with a magnetic stirring bar. The flask was fitted with a condenser and warmed in an oil bath to a gentle reflux at 135° C. The solution was heated for 15 hours. Progress of the reaction was monitored by analytical HPLC with UV detection at 215 and 254 nm. The starting material 3-{[2-(4-chlorophenoxy)ethyl]sulfanyl}-1H-1,2,4-triazol-5-amine elutes with retention time of 6.04 min, and the product elutes with retention time of 7.98 min. The solution was allowed to cool to room temperature and added into stirring ice/water (15 mL) to precipitate the product. Solids were isolated by filtration, rinsed with 20 mL of water, and then dried under reduced pressure. The solid was dissolved in 5 mL of ethanol with gentle warming and allowed to cool. The fine white needles that formed were isolated by filtration, washed with 3 mL of cold ethanol, and dried to afford the title compound as off-white crystals (186 mg, 65% yield). EM (calc.): 388.0; MS (ESI) m/e: 389.0 (M+H)+. 1H NMR (DMSO-d6, 400 MHz) δ ppm: 7.85 (s, 1H), 7.31 (d, 2H), 7.00 (d, 2H), 4.33 (t, 2H), 3.62 (t, 2H), 2.69 (s, 3H). 19F NMR (DMSO-d6, 376 MHz) δ ppm: −67.56 (s).

reactant | 1,1,1-trifluoro-2,4-pentanedione | 0.739 mmol, 114 mg | FC(C(CC(C)=O)=O)(F)F | C5H5F3O2
reactant | 3-{[2-(4-chlorophenoxy)ethyl]sulfanyl}-1H-1,2,4-triazol-5-amine | 0.739 mmol, 200 mg | ClC1=CC=C(OCCSC2=NNC(=N2)N)C=C1 | C10H11ClN4OS
solvent | acetic acid | 1.5 mL | C(C)(=O)O | C2H4O2
product | 2-{[2-(4-chlorophenoxy)ethyl]sulfanyl}-5-methyl-7-(trifluoromethyl)-[1,2,4]triazolo[1,5-a]pyrimidine | 186 mg, 65% yield | ClC1=CC=C(OCCSC2=NN3C(N=C(C=C3C(F)(F)F)C)=N2)C=C1 | C15H12ClF3N4OS
